* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4625-2 1 2 3 4 5
C1 Clamp COM {Cfp1}
G2 0 Vcc_Int N053 0 1
G3 0 Vee_Int N055 0 1
R6 Vcc_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N051 Vcc_Int 1Meg Temp=-273.15
R9 N051 Vee_Int 1Meg Temp=-273.15
C2 N051 0 1
E1 COM 0 N051 0 1
R10 COM 0 1Meg Temp=-273.15
R25 Aol2 COM 1Meg Temp=-273.15
G7 COM Aol2 Sense COM 1µ
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N003 1 {Rser} Temp=-273.15
R82 N055 4 1µ Temp=-273.15
A1 Inn1 Inp1 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R47 N053 3 1µ Temp=-273.15
G22 COM Sense Clamp COM 1m
R91 Sense COM 1k Temp=-273.15
R38 Aol1 COM 1Meg Temp=-273.15
R78 Clamp COM 1Meg Temp=-273.15
Iq N053 N055 {Iq_on}
C34 COM 0 1n
G30 N053 N055 Vimon COM 1
C38 Aol2 COM {Cfp2}
Vimon N014 5 0
DGP N046 Clamp DG
DGN Clamp N047 DG
G5 COM N048 GRpi COM 1
G6 COM N049 GRni COM 1
R14 N048 COM 1 Temp=-273.15
R15 N049 COM 1 Temp=-273.15
R16 GRpi COM 1k Temp=-273.15
R17 GRni COM 1k Temp=-273.15
C9 GRni COM 10p
I5 COM GRni {1m*Grossn}
I6 COM GRpi {1m*Grossp}
C10 GRpi COM 10p
R20 Satp COM 1k Temp=-273.15
C13 Satp COM 1p
C19 Satn COM 1p
R21 Satn COM 1k Temp=-273.15
S1 Cap2R Cap2L OL COM OL
F2 COM OLp VGP 1m
A2 OLp OLn COM COM COM COM OL COM OR Ref=100u Vh=50u Trise=10n
R3 OLp COM 1k
F3 COM OLn VGN -1m
R33 OLn COM 1k
C20 OLp COM 10n
C21 OLn COM 10n
C22 OL COM 1p
VGN N047 N049 0
VGP N046 N048 0
G18 N027 Inp1 N042 N041 1m
R51 Inp1 N027 1k Temp=-273.15
C32 N039 N040 {C1a_PSRp}
G19 COM N040 VCC_Int COM {G1_PSRp}
R52 N040 COM 1 Temp=-273.15
R55 N039 N040 {R1a_PSRp} Temp=-273.15
R56 N039 COM {R2a_PSRp} Temp=-273.15
C33 N034 N033 {C1a_PSRn}
G20 COM N033 VEE_Int COM {G1_PSRn}
R57 N033 COM 1 Temp=-273.15
R58 N034 N033 {R1a_PSRn} Temp=-273.15
R59 N034 COM {R2a_PSRn} Temp=-273.15
C35 N036 N035 {C1b_PSRn}
R60 N035 COM 1 Temp=-273.15
R61 N036 N035 {R1b_PSRn} Temp=-273.15
R63 N036 COM {R2b_PSRn} Temp=-273.15
G21 COM N041 N036 COM {G2_PSRn}
R64 N041 COM 1 Temp=-273.15
G23 COM N035 N034 COM 1
R68 N038 N037 {R1b_PSRp} Temp=-273.15
R69 N037 COM {R2b_PSRp} Temp=-273.15
G26 COM N042 N037 COM {G2_PSRp}
C37 N037 N038 {C1b_PSRp}
G27 COM N038 N039 COM 1
R70 N038 COM 1 Temp=-273.15
R71 N042 COM 1 Temp=-273.15
R76 N015 N018 1k Temp=-273.15
B17 N018 N015 I=1m*{Vos+Drift* (Temp-25)}
G32 N016 N017 N002 COM 1m
R77 N017 N016 1k Temp=-273.15
R79 N016 N015 1k Temp=-273.15
G33 N015 N016 E_n COM 1m
C39 N002 N001 {C1a_CMR}
G34 COM N001 N003 COM {G1_CMR}
R80 N002 N001 {R1a_CMR} Temp=-273.15
R81 N002 COM {R2a_CMR} Temp=-273.15
R83 N001 COM 1 Temp=-273.15
G35 COM N018 N003 COM 1k
G36 COM Inn1 N045 COM 1k
R84 COM N018 1m Temp=-273.15
R85 COM Inn1 1m Temp=-273.15
C40 Inn1 COM 1p
C41 N018 COM 1p
Ibp N003 COM {Ib}
Ibn N045 COM {Ib-Ios}
G37 N003 COM I_np COM 1
G38 N045 COM I_nn COM 1
R2 N045 2 {Rser} Temp=-273.15
Cinp COM N003 {Ccm}
Cinn N045 COM {Ccm}
Cdiff N003 N045 {Cdiff}
Rinn N045 COM {Rcm} Temp=-273.15
Rinp COM N003 {Rcm} Temp=-273.15
Rdiff N003 N045 {Rdiff} Temp=-273.15
A6 In_diff COM COM COM COM SB COM COM SCHMITT Vt=-5 Vh=100m Trise=5n
R86 SB COM 1G Temp=-273.15
G39 COM In_diff 1 2 1m
R87 In_diff COM 1k Temp=-273.15
G28 COM N027 N017 COM 1k
R72 COM N027 1m Temp=-273.15
C42 N027 COM 1p
B8 COM N005 I=1m*(V(3,COM)+{Vcm_max}) Cpar=1n
G14 COM CMp N005 COM 1
R49 COM CMp 1 Temp=-273.15
B12 COM N004 I=1m*(V(4,COM)+{Vcm_min}) Cpar=1n
G17 COM CMn N004 COM 1
R50 COM CMn 1 Temp=-273.15
R88 N005 COM 1k Temp=-273.15
R89 N004 COM 1k Temp=-273.15
DIP CMp Inp1 DI
DIN Inp1 CMn DI
C44 CMn Inp1 1f
C45 CMp Inp1 1f
Rx N013 N025 {Rx_Zo} Temp=-273.15
Rdummy N013 COM {Rdummy_Zo} Temp=-273.15
G40 COM Cap2L N032 N013 {G1_Zo}
R90 Cap2L COM 1 Temp=-273.15
R92 Cap2L Cap2R {R1a_Zo} Temp=-273.15
R95 Cap2R COM {R2a_Zo} Temp=-273.15
G41 COM N006 Cap2R COM {G2_Zo}
C46 Cap2R Cap2L {C1a_Zo}
R96 N025 COM 1 Temp=-273.15
B13 COM N025 I=Uplim(Dnlim({G5_Zo}* +V(ZoF,COM), {Izon}, 25m), {Izop}, 25m)
R97 N010 COM 1 Temp=-273.15
R98 N012 ZoF {R1e_Zo} Temp=-273.15
R99 ZoF COM {R2e_Zo} Temp=-273.15
C48 ZoF N012 {C1e_Zo}
R100 N006 COM 1 Temp=-273.15
R101 N006 N007 {R1b_Zo} Temp=-273.15
R102 N007 COM {R2b_Zo} Temp=-273.15
G42 COM N008 N007 COM {G3_Zo}
C49 N007 N006 {C1b_Zo}
R103 N008 COM 1 Temp=-273.15
R104 N008 N009 {R1b_Zo} Temp=-273.15
R105 N009 COM {R2b_Zo} Temp=-273.15
G43 COM N010 N009 COM {G3_Zo}
C50 N009 N008 {C1b_Zo}
R106 N010 N011 {R2d_Zo} Temp=-273.15
R107 N011 N031 {R1d_Zo} Temp=-273.15
C51 COM N031 {C1d_Zo}
Gb3 COM N012 N011 COM 1
R108 N012 COM 1 Temp=-273.15
R22 N028 COM 1Meg Temp=-273.15
G8 COM N028 Aol2 COM 1µ
C5 N028 COM {Cfp2}
R23 N029 COM 1Meg Temp=-273.15
G44 COM N029 N028 COM 1µ
Gb1 COM N019 N030 COM 1
R24 N023 COM 1 Temp=-273.15
R26 N019 N020 {R1f_Aol} Temp=-273.15
R27 N020 COM {R2f_Aol} Temp=-273.15
G45 COM N021 N020 COM {G6_Aol}
C18 N020 N019 {C1f_Aol}
R28 N019 COM 1 Temp=-273.15
R29 N032 COM 1 Temp=-273.15
R30 N023 N024 {R1g_Aol} Temp=-273.15
R31 N024 COM {R2g_Aol} Temp=-273.15
G46 COM N032 N024 COM {G7_Aol}
C52 N024 N023 {C1g_Aol}
R32 N021 N022 {R1f_Aol} Temp=-273.15
R109 N022 COM {R2f_Aol} Temp=-273.15
G47 COM N023 N022 COM {G6_Aol}
C53 N022 N021 {C1f_Aol}
R110 N021 COM 1 Temp=-273.15
R111 N030 COM 1Meg Temp=-273.15
G48 COM N030 N029 COM 1µ
C54 N029 COM {Cfp3}
C55 N030 COM {Cfp4}
A7 COM COM COM COM COM COM N050 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R4 N050 COM 100k Temp=-273.15
A8 COM N050 COM COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BB}
R5 E_n COM 100k Temp=-273.15
A3 COM COM COM COM COM COM I_np COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={In}
R13 I_np COM 100k Temp=-273.15
A4 COM COM COM COM COM COM I_nn COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={In}
R34 I_nn COM 100k Temp=-273.15
B2 4 Vsatn1 I=1m*Max(Mn*(-I(Vimon))+OSn,40u)
R18 Vsatn1 4 1k
C3 Vsatn1 4 1n
B5 4 Vsatn2 I=1m*Max((An*(-I(Vimon)))/(Bn+(-I(Vimon))),40u)
R19 Vsatn2 4 1k
C4 Vsatn2 4 1n
B10 COM Satn I=1m*Max(V(Vsatn2,COM), V(Vsatn1,COM))
R35 Vsatp3 3 1k
C11 Vsatp3 3 1n
B11 Vsatp1 3 I=1m*Max(Mp1*(I(Vimon))+OSp1,40u)
R36 Vsatp1 3 1k
C12 Vsatp1 3 1n
B15 Vsatp3 3 I=1m*Max(Ap+((Bp*(I(Vimon)**Cp))/((Dp**Cp)+(I(Vimon)**Cp))),40u)
B18 Vsatp2 3 I=1m*Max(Mp2*(I(Vimon))+OSp2,40u)
R39 Vsatp2 3 1k
C24 Vsatp2 3 1n
B9 COM Satp I=1m*Min(V(Vsatp1,COM), Min(V(Vsatp2,COM), V(Vsatp3,COM)))
C28 SB COM 1p
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,COM), {Isink}-V(SB,COM)*{Boost},1m),{Isrc},1m)
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
C6 Vimon COM 1p
R11 Vimon COM 1k Temp=-273.15
F1 COM Vimon Vimon 1m
DOP Vsatp N013 DO
DON N013 Vsatn DO
DOI N013 N014 LIM
COI N014 N013 1p
G1 COM Vsatp Satp COM 1k
R42 Vsatp COM 1m
C16 Vsatp COM 1n
G4 COM Vsatn Satn COM 1k
R43 Vsatn COM 1m
C17 Vsatn COM 1n
C23 N013 Vsatp 1f
C25 N013 Vsatn 1f
C7 2 COM 1f
C8 1 COM 1f
S4 3 N018 N018 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N018 4 4 N018 ESDI
S7 Inn1 4 4 Inn1 ESDI
.param Vos=-22u Drift=0.5u
.param BB=3.15n In=4.5f
.param fC=39 M=0.35 fA={BB*(fC**M)}
.param Ib=15p Ios=2p
.param Vcm_min=-0.2 Vcm_max=-3.5
.param Vsmin=5 Vsmax=36
.param Iscp=46m Iscn=-46m
.param Iq_on=4m Iq_off=1u
.param Torp=100n Torn=100n
.param ORp={(Isrc/Cfp1)*Torp} ORn={(Isink/Cfp1)*Torn}
.param IZop={2*Rx_Zo*Iscp} IZon={2*Rx_Zo*Iscn}
.param Grossn={Zo_max*Iscn-Vsmin} Grossp={Zo_max*Iscp+Vsmax}
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u)
.model ESDI SW(Ron=50 Roff=1T Vt=31.6 Vh=-500m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param Boost=7
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param C1b_PSRp={1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp= {1/actual2_PSRp}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rser=1m
.param Ccm=13.3p Rcm=1T
.param Cdiff=13.8p Rdiff=1T
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=1k
.param Zo_max={Zo_dc}
.param R1a_Zo=10k
.param fz1_Zo=0.44
.param fp1_Zo=16.5
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1b_Zo=10k
.param fz2_Zo=100k
.param fp2_Zo=102k
.param C1b_Zo = {1 / (2 * pi * R1b_Zo * fz2_Zo)}
.param R2b_Zo = {R1b_Zo/ ((2 * pi * fp2_Zo * C1b_Zo
+* R1b_Zo) - 1)}
.param actual3_Zo = {R2b_Zo / (R1b_Zo + R2b_Zo)}
.param G3_Zo = {1/actual3_Zo}
.param R1e_Zo=10k
.param fz5_Zo=300Meg
.param fp5_Zo=100G
.param C1e_Zo = {1 / (2 * pi * R1e_Zo * fz5_Zo)}
.param R2e_Zo = {R1e_Zo/ ((2 * pi * fp5_Zo * C1e_Zo
+* R1e_Zo) - 1)}
.param actual5_Zo = {R2e_Zo / (R1e_Zo + R2e_Zo)}
.param G5_Zo = {1/actual5_Zo}
.param R1d_Zo=10k
.param fp4_Zo=28Meg
.param fz4_Zo=247Meg
.param C1d_Zo = {1 / (fz4_Zo * R1d_Zo * 2 * pi)}
.param R2d_Zo = {(1 / (fp4_Zo * C1d_Zo * 2 * pi))
+- R1d_Zo}
.param Aol_PB=152.07
.param SRp=51 SRn=-38.5
.param fp1=0.44 fp2=6.35Meg fp3=55Meg fp4=51.5Meg
.param R1f_Aol=10k
.param fz6_Aol=10.85Meg
.param fp6_Aol=183Meg
.param C1f_Aol = {1 / (2 * pi * R1f_Aol * fz6_Aol)}
.param R2f_Aol = {R1f_Aol/ ((2 * pi * fp6_Aol * C1f_Aol
+* R1f_Aol) - 1)}
.param actual6_Aol = {R2f_Aol / (R1f_Aol + R2f_Aol)}
.param G6_Aol = {1/actual6_Aol}
.param R1g_Aol=10k
.param fz7_Aol={fz6_Aol}
.param fp7_Aol=600Meg
.param C1g_Aol = {1 / (2 * pi * R1g_Aol * fz7_Aol)}
.param R2g_Aol = {R1g_Aol/ ((2 * pi * fp7_Aol * C1g_Aol
+* R1g_Aol) - 1)}
.param actual7_Aol = {R2g_Aol / (R1g_Aol + R2g_Aol)}
.param G7_Aol = {1/actual7_Aol}
.param Rej_dc_CMR=130
.param R1a_CMR=1Meg
.param fz1_CMR=20
.param fp1_CMR=5Meg
.param Rej_dc_PSRp=120
.param R1a_PSRp=1Meg
.param fz1_PSRp=750
.param fp1_PSRp=800k
.param R1b_PSRp=1Meg
.param fz2_PSRp=16.5k
.param fp2_PSRp=14Meg
.param Rej_dc_PSRn=120
.param R1a_PSRn=1Meg
.param fz1_PSRn=5
.param fp1_PSRn=50k
.param R1b_PSRn=1Meg
.param fz2_PSRn=100k
.param fp2_PSRn=10Meg
.param Mp1=5.01 OSp1=0.155
.param Mp2=15.56 OSp2=0.14
.param Ap=0.159 Bp=300 Cp=1.8 Dp=0.9
.param Mn=14 OSn=0.15
.param An=-1.43 Bn=-8.9e-2
.ends ADA4625-2
