* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt LT6018 1 2 3 4 5 6 7
B1 0 N004 I=10u*dnlim(uplim(V(1),V(3)-2.9,.1), V(4)+2.9, .1)+1n*V(1)
B2 N004 0 I=10u*dnlim(uplim(V(2),V(3)-2.89,.1), V(4)+2.89, .1)+1n*V(2)
C10 N004 0 10f Rpar=100K noiseless
C13 3 4 10p
G2 0 N013 4 0 .5m
G4 0 N013 3 0 .5m
C18 N013 0 200p Rpar=1K noiseless
D10 3 4 DPSHDN
R5 3 N008 100Meg noiseless
R6 N008 4 100Meg noiseless
G1 N008 0 N008 3 500m dir=1 vto=0
G3 0 N008 4 N008 500m dir=1 vto=0
G6 0 N005 N008 0 1m
C1 N005 0 50p Rpar=1k noiseless
G7 0 VoutP N005 0 1m
L1 VoutP 0 70.7µ Rser=1.111111111111111k Rpar=10k noiseless
C2 3 5 2p Rpar=1g noiseless
C3 5 4 2p Rpar=1g noiseless
Q1 3 N007 5 0 NPN1 temp=27
Q2 C1 N015 4 0 NPN1 temp=27
R3 N006 4 10 noiseless
D3 N006 N007 DILIM
B3 3 N015 I=(.5+.5*tanh((V(On)-.5)/10m))*uplim(dnlim(10m*(V(5,VoutP)),dnlim(1m*V(5,VoutP)+60u,60n,10n),1u),6m,10u)
B5 4 N006 I=(.5+.5*tanh((V(On)-.5)/10m))*uplim(100m*(V(VoutP,4)+820m),100m*V(3,4),1m)
A4 0 N004 0 0 0 0 N009 0 OTA g=1m linear Rout=1k enk=.5 en=1.2n*(1+freq/1.1Meg)/(1+freq/28Meg)**2.5 Vlow=-1e308 Vhigh=1e308
G15 0 N008 N009 0 table(-15,-350m,-10,-165m,-5,-110m,-2,-50m,-1,-30m,-100m,-26m,100m,26m,1,30m,5,66m,15,110m)
C9 N008 0 2.75n
A1 2 1 0 0 0 0 0 0 OTA g=0 in=750f ink=120 incm=2.9p incmk=350
D1 1 3 DPROT
D2 2 3 DPROT
C4 3 1 1.75p Rser=5k Rpar=100Meg noiseless
C6 4 6 100f
C7 3 2 1.75p Rser=5k Rpar=100Meg noiseless
C8 1 4 1.75p Rser=5k Rpar=100Meg noiseless
C11 2 4 1.75p Rser=5k Rpar=100Meg noiseless
D5 4 6 DPROT
D6 4 7 DPROT
D7 3 6 ENB
A2 6 7 0 0 0 0 N019 0 SCHMITT vt=1.25 vh=400m trise=45u tfall=40u
A3 N017 0 N019 0 N020 0 ON 0 AND trise=100n
D8 1 N012 DBIAS1
D9 2 N012 DBIAS1
S2 N012 4 ON 0 Sbias1
B6 2 4 I=(.5+.5*tanh((V(On)-.5)/10m))*uplim(40u*MAX(V(2,1)-100m,0)**2,110u,80u)
B7 1 4 I=(.5+.5*tanh((V(On)-.5)/100m))*uplim(40u*MAX(V(1,2)-100m,0)**2,110u,80u)
D11 2 1 DBIASZ
S3 2 3 Vdiff 0 SBIAS2
S4 1 3 0 Vdiff SBIAS2
B8 3 1 I=5u*(.5+.5*tanh((V(On)-.5)/10m))*(.5+.5*tanh((V(3,1)-.5)/100m))
B9 3 2 I=5u*(.5+.5*tanh((V(On)-.5)/100m))*(.5+.5*tanh((V(3,2)-.5)/100m))
A5 3 4 0 0 0 0 N020 0 SCHMITT vt=7.9 vh=0 trise=100u tfall=10u
D12 3 7 ENB
C15 N012 4 100f
C16 4 7 100f
D13 4 1 DPROT
D14 4 2 DPROT
D15 6 3 DPROT
D16 7 3 DPROT
G8 0 Vdiff 1 2 1m
C17 Vdiff 0 1p
S6 Vdiff 0 0 ON SbiasOff
C14 N007 4 1p
C19 5 C1 100f Rpar=1 noiseless
S5 N015 4 4 N014 SNSAT
C20 N014 4 100f Rpar=1Meg noiseless
G5 4 N014 5 4 1µ
B10 N014 4 I=uplim(.4m*MAX(V(5,C1)+22m,0)**2,1u,10n)+uplim(18m*MAX(V(5,C1)-14.2m,0)**2,310n,40n)
C5 2 N010 30.25p
S1 1 N010 On 0 SCAP
S7 3 4 ON 0 SP
A6 3 7 0 0 0 0 N017 0 SCHMITT vt=2.9 vh=0 trise=45u
.model NPN1 NPN(IS=1E-14 VAF=100 BF=80 IKF=20m BR=1 ISC=1e-11 NC=2 IKR=15m CJC=100f CJE=100f noiseless)
.model DILIM D(Ron=600 Roff=600 ilimit=4.8m noiseless)
.model DLK D(Ron=600 Roff=1G vfwd=400m epsilon=300m ilimit=300u noiseless)
.model DLKO D(Ron=1Meg Roff=1G vfwd=400m epsilon=300m ilimit=.1u noiseless)
.model SNSAT SW(level=2 Ron=1 Roff=10Meg vt=113.3m vh=-5m noiseless)
.model DPSHDN D(Ron=1k Roff=1G vfwd=1.5 epsilon=1 ilimit=4.31u noiseless)
.model SP SW(level=2 Ron=1k Roff=1G vt=.5 vh=-.2 ilimit=3.2m noiseless)
.model  ENB  D(Ron=100k Roff=1G vfwd=1 epsilon=500m ilimit=700n noiseless)
.model DPROT D(Ron=1k Roff=24G Vfwd=1 epsilon=500m noiseless)
.model SCAP SW(Ron=1k  Roff=1G vt=.5 vh=-.3 noiseless)
.model SBIAS1 SW(level=2 Ron=100k Roff=1G vt=.5 vh=-200m ilimit=10u noiseless)
.model SBIAS2 SW(level=2 Ron=50k Roff=280Meg vt=4.5 vh=-200m ilimit=95u oneway epsilon=100m noiseless)
.model SbiasOff SW(Ron=1 Roff=1k vt=-.5 vh=-.3 noiseless)
.model DBIAS1 D(Ron=4.5k Roff=1G vfwd=600m epsilon=500m noiseless)
.model DBIASZ D(Ron=50k Roff=1G vfwd=4.5 epsilon=500m vrev=4.5 revepsilon=300m noiseless)
.ends LT6018
